US07329764B2
To a stirred solution of 3-cyano-4-ethoxy-2-fluorobenzoic acid (3.0 g, 14.34 mmol) in THF (16 mL) and ether (8 mL) at −78° C. was added diisobutylaluminum hydride (DIBAL-H) solution (1 M in THF, 43.0 mL, 43.0 mmol). The reaction was allowed to warm to 0° C. over 3 h, and then it was stored at −10° C. overnight. 1M Sodium potassium tartrate (100 mL, 100 mmol) and diatomaceous earth were added and stirred at room temperature for 4 h. The mixture was filtered through a diatomaceous earth pad, extracted with dichloromethane, rinsed with saturated sodium bicarbonate solution, and rinsed with brine. It was dried over sodium sulfate, concentrated and dried in vacuo to give 6-ethoxy-3-hydroxymethyl-2-fluorobenzonitrile (2.352 g, 12.05 mmol, 63.0%) which was used as is in the next reaction.

reactant | 3-cyano-4-ethoxy-2-fluorobenzoic acid | 14.34 mmol, 3.0 g | C(#N)C=1C(=C(C(=O)O)C=CC1OCC)F | C10H8FNO3
reactant | diisobutylaluminum hydride | 43.0 mmol, 1 M, 43.0 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Sodium potassium tartrate | 100 mmol, 1M, 100 mL | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
solvent | ether | 8 mL | CCOCC | C4H10O
product | 6-ethoxy-3-hydroxymethyl-2-fluorobenzonitrile | 12.05 mmol, 2.352 g, 63.0% | C(C)OC1=CC=C(C(=C1C#N)F)CO | C10H10FNO2
